US05739401
In the same manner as in Example 4 except that a mixture of formic acid, ammonium formate and 2',4'-dichloroacetophenone was heated with stirring at 160° C. for 6 hours in place of the concurrent addition of 2',4'-dichloroacetophenone and formic acid to ammonium formate for 3 hours and keeping the mass ater the addition stirred for 3 hours, the reaction and post treatment were carried out to obtain 178.6 g of crude N-formyl-1-(2,4-dichlorophenyl)ethylamine; the purity: 70.4%.

reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | 2',4'-dichloroacetophenone | ClC1=C(C=CC(=C1)Cl)C(C)=O | C8H6Cl2O
solvent | formic acid | C(=O)O | CH2O2
product | N-formyl-1-(2,4-dichlorophenyl)ethylamine | 178.6 g | C(=O)NC(C)C1=C(C=C(C=C1)Cl)Cl | C9H9Cl2NO
